US04505898
4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine methyl ester
4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanine (1.87 g) was dissolved in dry tetrahydrofuran (10 ml). To the solution was added (L)-phenylalanine methyl ester hydrochloride in dry chloroform (10 ml) containing dry triethylamine (0.7 ml). DCC (1.02 g) was added and the reaction mixture was stirred overnight.

reactant | 4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanine | 1.87 g | C(C=C)OC1=C(C=C(C[C@H](NC(CC2=CC=CC=C2)=O)C(=O)O)C=C1)Cl | C20H20ClNO4
reactant | (L)-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | DCC | 1.02 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Allyloxy-3-chloro-phenylacetyl-(L)-phenylalanyl-(L)-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(CC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OCC=C)Cl)=O)CC1=CC=CC=C1)=O | C30H31ClN2O5
